US08633183B2
A-33) 4-Ethyl-5-ethynyl-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP3 starting from 3.3 g (15 mmol) 4-ethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine and 1.04 g (7.5 mmol) K2CO3 in 30 mL MeOH. The product is purified by chromatography on silica gel using a DCM/MeOH gradient. Yield: 1.78 g (81%).

reactant | 4-ethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine | 15 mmol, 3.3 g | C(C)C1=CC(=NC=C1C#C[Si](C)(C)C)N | C12H18N2Si
reactant | K2CO3 | 7.5 mmol, 1.04 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 30 mL | CO | CH4O
product | 4-Ethyl-5-ethynyl-pyridin-2-ylamine | C(C)C1=CC(=NC=C1C#C)N | C9H10N2
